US04014679
STEP B: m-acetyl-3-methoxy-crotonanilide
A mixture of 400 ml of methanol, 41 g of m-acetyl-3-chlorocrotonanilide and 9.4 g of sodium methylate was stirred at 20° C for 72 hours and the mixture was vacuum filtered to recover the sodium chloride formed and the desired product. The solid was dissolved in refluxing acetone and the mixture was filtered. The filtrate was evaporated to dryness under reduced pressure. The waste waters were evaporated to dryness and the residue was taken up in 200 ml of a 7-3 benzene-ethyl acetate mixture. The mixture was vacuum filtered and the solid was dissolved in refluxing acetone. The solution was filtered and the filtrate was evaporated to dryness for a total yield of 19.5 g of m-acetyl-3-methoxy-crotonanilide melting at 168° C.

reactant | m-acetyl-3-chlorocrotonanilide | 41 g | C(C)(=O)C=1C=C(NC(\C=C(\C)/Cl)=O)C=CC1 | C12H12ClNO2
reactant | sodium methylate | 9.4 g | C[O-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | m-acetyl-3-methoxy-crotonanilide | C(C)(=O)C=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C13H15NO3
